US07718676B2
Preparation of (2-Methyl-5-nitro-phenyl)-(5-pyridin-3-yl-oxazol-2-yl)-amine
To a solution of 3-azidoacetylpyridine (800 mg, 4.94 mmol) in dioxane 10 mL was added 2-methyl-5-nitrophenyl isocyanate (880 mg, 4.94 mmol) (commercially available), and triphenylphosphine (1.29 g, 4.94 mmol). The reaction mixture was placed in an oil bath preheated to 100° C. and stirred for 30 min. After evaporation of the solvent under reduced pressure the residue was partitioned between 4N HCl (20 mL) and dichloromethane (20 mL). The aqueous layer was neutralized with 15% NaOH and extracted with dichloromethane (3×20 mL). The combined organic layers were washed with brine (20 mL), dried over anhydrous MgSO4, concentrated. The residue was silica gel column chromatographed (dichloromethane/ethanol:97/3) to give the title compound as yellow micro crystals (1.14 g, 78%).

reactant | 3-azidoacetylpyridine | 4.94 mmol, 800 mg | N(=[N+]=[N-])CC(=O)C=1C=NC=CC1 | C7H6N4O
reactant | 2-methyl-5-nitrophenyl isocyanate | 4.94 mmol, 880 mg | CC1=C(C=C(C=C1)[N+](=O)[O-])N=C=O | C8H6N2O3
reactant | triphenylphosphine | 4.94 mmol, 1.29 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (2-Methyl-5-nitro-phenyl)-(5-pyridin-3-yl-oxazol-2-yl)-amine | 1.14 g, 78% | CC1=C(C=C(C=C1)[N+](=O)[O-])NC=1OC(=CN1)C=1C=NC=CC1 | C15H12N4O3
